** sch_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/smoke_test.sch
**.subckt smoke_test
XXDUT vdd 0 clk t0 t1 t2 t3 t4 t5 t6 t7 rcosc_top
VDD vdd 0 dc 3.3
VT0 t0 0 dc 0.0
VT1 t1 0 dc 0.0
VT2 t2 0 dc 0.0
VT3 t3 0 dc 0.0
VT4 t4 0 dc 0.0
VT5 t5 0 dc 0.0
VT6 t6 0 dc 0.0
VT7 t7 0 dc 3.3
**** begin user architecture code


* pdk_include.spice is generated at run time by regen-netlist.sh /
* run-smoke-test.sh from $PDK_ROOT / $PDK, kept out of this schematic
* so it has no hardcoded, machine-specific path.
.include pdk_include.spice

.control
op
print v(vdd) v(vc) v(vh) v(vl) v(ibias) v(clk)
* Total DC current drawn from vdd at this .op point (issue #20): ngspice's
* passive sign convention on an independent source reports current flowing
* INTO its positive terminal, so i(vdd) is negative when the circuit is
* actually drawing current from the supply -- negate it to report a
* positive quiescent-current figure in microamps.
let iq_ua = -1e6*i(vdd)
print iq_ua
tran 200p 1200n
meas tran t_first_rise when v(clk)=1.65 rise=1
meas tran t_second_rise when v(clk)=1.65 rise=2
print t_first_rise t_second_rise
* Running quiescent current (issue #22). DR-0003 Row 4's target is stated
* as '< 500 uA (running)', and its anchor -- ST DS9826's IDDA(HSI48), 312
* uA typ -- is a datasheet supply-current figure for an oscillator that is
* oscillating. The .op figure above is NOT that quantity: a relaxation
* oscillator has no stable DC operating point, so the DC solve converges
* on the unstable equilibrium, which pins the charge-complete comparator
* XCMPH at its own output inverter's trip point -- holding that buffer,
* and the SR-latch NOR gate its mid-rail output drives, in full crowbar
* conduction, a state the running circuit occupies only in transit
* (measured: sim/iq/corners/). iq_run_ua below is the
* quantity Row 4 actually names: -i(vdd) averaged over 20 whole periods
* (rising edges 5..25, startup skipped). Both are printed, never one
* without the other -- see DR-0008.
let ivdd_ua = -1e6*i(vdd)
meas tran t_avg_start when v(clk)=1.65 rise=5
meas tran t_avg_end when v(clk)=1.65 rise=25
meas tran iq_run_ua AVG ivdd_ua FROM=$&t_avg_start TO=$&t_avg_end
quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  rcosc_top.sym # of pins=11
** sym_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_top.sym
** sch_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_top.sch
.subckt rcosc_top vdd vss clk t0 t1 t2 t3 t4 t5 t6 t7


*.iopin vdd
*.iopin vss
*.iopin clk
*.iopin t0
*.iopin t1
*.iopin t2
*.iopin t3
*.iopin t4
*.iopin t5
*.iopin t6
*.iopin t7
XXBIAS vdd vss vh vl ibias rcosc_bias
XXTRIM vdd vc vss t0 t1 t2 t3 t4 t5 t6 t7 vdd rcosc_trim_bank
XCTIMING vss vc cap_mim_1f0fF c_width=20u c_length=10u m=1
XXCMPH vdd vss ibias vc vh cmph_out rcosc_comparator
XXCMPL vdd vss ibias vl vc cmpl_out rcosc_comparator
XMDISCH vc clk vss vss nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1A qbar cmph_out vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1B qbar clk vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1C mid1 cmph_out vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1D qbar clk mid1 vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2A clk cmpl_out vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2B clk qbar vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2C mid2 cmpl_out vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2D clk qbar mid2 vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_bias.sym # of pins=5
** sym_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_bias.sym
** sch_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_bias.sch
.subckt rcosc_bias vdd vss vh vl ibias


*.iopin vdd
*.iopin vss
*.iopin vh
*.iopin vl
*.iopin ibias
XRBA vdd vh vss ppolyf_u_1k r_width=2u r_length=100u m=1
XRBB vh vl vss ppolyf_u_1k r_width=2u r_length=100u m=1
XRBC vl vss vss ppolyf_u_1k r_width=2u r_length=100u m=1
XN1 ibias ibias vss vss nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XN2 pb ibias n2s vss nfet_03v3 L=1u W=16u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRZ n2s vss vss ppolyf_u_1k r_width=2u r_length=32u m=1
XP1 pb pb vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XP2 ibias pb vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSEED pb vl vss vss nfet_03v3 L=20u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_trim_bank.sym # of pins=12
** sym_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_trim_bank.sym
** sch_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_trim_bank.sch
.subckt rcosc_trim_bank p m vss t0 t1 t2 t3 t4 t5 t6 t7 vdd


*.iopin p
*.iopin m
*.iopin vss
*.iopin t0
*.iopin t1
*.iopin t2
*.iopin t3
*.iopin t4
*.iopin t5
*.iopin t6
*.iopin t7
*.iopin vdd
XRFIX p c1 vss ppolyf_u_1k r_width=2u r_length=17.198u m=1
XR0 c1 c2 vss ppolyf_u_1k r_width=2u r_length=0.7482u m=1
XSW0 c1 t0 c2 vss nfet_03v3 L=0.28u W=24uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW0 c2 tb0 c1 vdd pfet_03v3 L=0.28u W=24uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV0 tb0 t0 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV0 tb0 t0 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 c2 c3 vss ppolyf_u_1k r_width=2u r_length=1.4965u m=1
XSW1 c2 t1 c3 vss nfet_03v3 L=0.28u W=16uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW1 c3 tb1 c2 vdd pfet_03v3 L=0.28u W=16uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV1 tb1 t1 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV1 tb1 t1 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 c3 c4 vss ppolyf_u_1k r_width=2u r_length=2.993u m=1
XSW2 c3 t2 c4 vss nfet_03v3 L=0.28u W=12uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW2 c4 tb2 c3 vdd pfet_03v3 L=0.28u W=12uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV2 tb2 t2 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV2 tb2 t2 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR3 c4 c5 vss ppolyf_u_1k r_width=2u r_length=5.9859u m=1
XSW3 c4 t3 c5 vss nfet_03v3 L=0.28u W=8uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW3 c5 tb3 c4 vdd pfet_03v3 L=0.28u W=8uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV3 tb3 t3 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV3 tb3 t3 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR4 c5 c6 vss ppolyf_u_1k r_width=2u r_length=11.9719u m=1
XSW4 c5 t4 c6 vss nfet_03v3 L=0.28u W=6uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW4 c6 tb4 c5 vdd pfet_03v3 L=0.28u W=6uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV4 tb4 t4 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV4 tb4 t4 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR5 c6 c7 vss ppolyf_u_1k r_width=2u r_length=23.9438u m=1
XSW5 c6 t5 c7 vss nfet_03v3 L=0.28u W=5uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW5 c7 tb5 c6 vdd pfet_03v3 L=0.28u W=5uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV5 tb5 t5 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV5 tb5 t5 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR6 c7 c8 vss ppolyf_u_1k r_width=2u r_length=47.8876u m=1
XSW6 c7 t6 c8 vss nfet_03v3 L=0.28u W=4uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW6 c8 tb6 c7 vdd pfet_03v3 L=0.28u W=4uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV6 tb6 t6 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV6 tb6 t6 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR7 c8 m vss ppolyf_u_1k r_width=2u r_length=95.7751u m=1
XSW7 c8 t7 m vss nfet_03v3 L=0.28u W=3uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPW7 m tb7 c8 vdd pfet_03v3 L=0.28u W=3uu nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XNINV7 tb7 t7 vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XPINV7 tb7 t7 vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  rcosc_comparator.sym # of pins=6
** sym_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_comparator.sym
** sch_path: /Users/rwalters/GitHub/gf180-rcosc/.loom/worktrees/issue-43/design/rcosc_comparator.sch
.subckt rcosc_comparator vdd vss ibias inp inn out


*.iopin vdd
*.iopin vss
*.iopin ibias
*.iopin inp
*.iopin inn
*.iopin out
XMTAIL tail ibias vss vss nfet_03v3 L=1u W=16u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINP dp inp tail vss nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINN dn inn tail vss nfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLOADA dn dn vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLOADB dp dn vdd vdd pfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFP out dp vdd vdd pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBUFN out dp vss vss nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.end
